US07244730B2
(Step 5) 2-Bromo-1-{3-(tert-butyl)-4-methoxy-5-[(3R,4R)-3-methoxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]phenyl}-1-ethanone
Triethylamine (0.46 ml, 3.3 mmol) and tert-butyl dimethylsilyltrifluoromethanesulfonate (0.37 ml, 1.6 mmol) were added dropwise in that order to a solution of 1-{3-(tert-butyl)-4-methoxy-5-[(3R,4R)-3-methoxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]phenyl}-1-ethanone (397 mg, 1.09 mmol) in tetrahydrofuran (4 ml) while cooling on ice, and the mixture was stirred at the same temperature for 20 minutes. N-Bromosuccinimide (290 mg, 1.63 mmol) was then added and stirring was continued at the same temperature for 15 minutes. After completion of the reaction, the mixture was diluted with saturated aqueous sodium hydrogencarbonate and ethyl acetate and the organic layer was separated. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (434 mg, 90%) as a light yellow oil.

reactant | Triethylamine | 3.3 mmol, 0.46 ml | C(C)N(CC)CC | C6H15N
reactant | 1-{3-(tert-butyl)-4-methoxy-5-[(3R,4R)-3-methoxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]phenyl}-1-ethanone | 1.09 mmol, 397 mg | C(C)(C)(C)C=1C=C(C=C(C1OC)N1C[C@H]([C@@H](C1)OCOC)OC)C(C)=O | C20H31NO5
reactant | N-Bromosuccinimide | 1.63 mmol, 290 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-1-{3-(tert-butyl)-4-methoxy-5-[(3R,4R)-3-methoxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]phenyl}-1-ethanone | 434 mg, 90% | BrCC(=O)C1=CC(=C(C(=C1)N1C[C@H]([C@@H](C1)OCOC)OC)OC)C(C)(C)C | C20H30BrNO5
